US08232294B2
Step 5) (R)—N-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenyl)-1-(2-hydroxypropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a solution of 4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorobenzenamine (5.0 g, 0.016 mol) and (R)-1-(2-hydroxypropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (6.2 g, 0.022 mol) in CH2Cl2 (100 mL) at 0° C. was added TEA (5.5 g, 0.054 mol), followed by HATU (10.3 g, 0.027 mol) in portions. The reaction mixture was stirred at 0° C. for 2 h, warmed up to rt and continued to stir overnight. The reaction mixture was washed with water (30 mL×3). The organic phase was dried over Na2SO4 and concentrated in vacuo. The residue was crystallized in a mixture of EtOAc/n-hexane (50 mL, v/v=5:1) to give the title compound as a pale yellow solid (7.8 g, 85.2%).

reactant | 4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorobenzenamine | 0.016 mol, 5.0 g | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)N)F | C17H15FN2O3
reactant | (R)-1-(2-hydroxypropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 0.022 mol, 6.2 g | O[C@@H](CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1)C | C14H16N2O4
reactant | HATU | 0.027 mol, 10.3 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenyl)-1-(2-hydroxypropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 7.8 g, 85.2% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C[C@@H](C)O)C1=CC=CC=C1)=O)F | C31H29FN4O6
